US20010047031A1
(3RS, 4RS)-3-Hydroxy-4-(4-hydroxy-phenylsulfanyl)-pyrrolidine-1-carboxylic acid tert-butyl ester (0.2 g, 0.6 mmol) was dissolved in acetone (5 ml), and treated with K2CO3 (0.1 g, 0.7 mmol). After 1 hour refluxing, the reaction mixture was cooled to room temperature and benzylbromide (0.084 ml, 0.7 mmol) was added. Reaction mixture was refluxed for an additional 3 hours then cooled to room temperature and quenched with H2O. The aqueous phase was extracted with CH2Cl2, the combined organic phases were dried over Na2SO4, filtered and the solvent was evaporated. The residue was chromatographed over silica gel (hexane-ethyl acetate 2:1) to provide (3RS, 4RS)-3-(4-benzyloxy-phenylsulfanyl)-4-hydroxy-pyrrolidine-1-carboxylic acid tert-butyl ester (0.208 g, 81%) as a yellow oil, MS: m/e=402.4 (M+H+).

reactant | (3RS, 4RS)-3-Hydroxy-4-(4-hydroxy-phenylsulfanyl)-pyrrolidine-1-carboxylic acid tert-butyl ester | 0.6 mmol, 0.2 g | C(C)(C)(C)OC(=O)N1CC(C(C1)SC1=CC=C(C=C1)O)O | C15H21NO4S
reactant | K2CO3 | 0.7 mmol, 0.1 g | C(=O)([O-])[O-].[K+].[K+]
reactant | benzylbromide | 0.7 mmol, 0.084 ml | C(C1=CC=CC=C1)Br | C7H7Br
solvent | acetone | 5 ml | CC(=O)C | C3H6O
product | (3RS, 4RS)-3-(4-benzyloxy-phenylsulfanyl)-4-hydroxy-pyrrolidine-1-carboxylic acid tert-butyl ester | 0.208 g, 81% | C(C)(C)(C)OC(=O)N1CC(C(C1)O)SC1=CC=C(C=C1)OCC1=CC=CC=C1 | C22H27NO4S
